US07745484B2
Step 3: (R,E)-N-(2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)ethylidene)-2-methylpropane-2-sulfinamide
To a 1.0 L round bottom flask containing 2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)acetaldehyde (5.00 g, 23.3 mmol) (crude 10.5 g with TESOH, 1H NMR showed about 50/50 sm to impurity) was added DCM (200 mL) and the mixture was allowed to stir at 23° C. for 5 min. At this time, (R)-2-methylpropane-2-sulfinamide (2.83 g, 23.3 mmol) and cupric sulfate anhydrous (2.58 ml, 58.3 mmol) were added and the reaction was allowed to stir for 40 h. The copper salts were removed by celite filtration. The filtrate was concentrated to give a yellow oil that was purified on a 330 g Isco column (5 to 20% EtOAc in hexanes)to afford the title compound as a colorless oil.

reactant | 2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)acetaldehyde | 23.3 mmol, 5.00 g | [Si](C)(C)(C(C)(C)C)OC1(CC1)CC=O | C11H22O2Si
reactant | TESOH | [Si](CC)(CC)(CC)O | C6H16OSi
reactant | (R)-2-methylpropane-2-sulfinamide | 23.3 mmol, 2.83 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (R,E)-N-(2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)ethylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC1(CC1)C\C=N\[S@](=O)C(C)(C)C | C15H31NO2SSi
